### PR TITLE
refactor(CategoryTheory): insert missing functor associators and unitors

### PR DESCRIPTION
**Pull request by kim-em**
This PR inserts the functor associators and unitors that Mathlib currently omits, or applies in the wrong direction, when it identifies `(F ⋙ G) ⋙ H` with `F ⋙ G ⋙ H` or `𝟭 C ⋙ F` with `F` by unfolding `Functor.comp` and `Functor.id`. None of these changes are *necessary*, but all reduce some defeq abuse that hopefully will make life easier in future.

It is extracted from Paul Reichert's experiment making `Functor.comp` and `Functor.id` `instance_reducible` with a semireducible `map` field (https://github.com/leanprover-community/mathlib4/compare/master...leanprover-community:mathlib4-nightly-testing:datokrat/functorcomp, discussed at https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/backward.2EisDefEq.2ErespectTransparency), keeping only the bracketing and unit fixes so that future experiments of this kind have less to repair. The `Functor.comp_map` proof changes from that branch are not included, and the corresponding changes for (pre)sheaves of modules are in a separate PR.

The notable API changes are: `limit.pre_pre`, `post_post`, `pre_post` and their duals now relate the two bracketings through `HasLimit.isoOfNatIso (Functor.associator _ _ _)`; `StructuredArrow.final_map₂_id` takes `β : T ⋙ S ⟶ 𝟭 C ⋙ T'`; and `Join.mkNatTrans` and `mkNatIso` carry associators in their (autoparam) compatibility hypothesis.

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by robin-carlier** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/e4dbc82828d8c847d3b4d1f769ebcbaeddc16015?reference=572e4d091bcee94b35bdae44ff5a55687740f7c9) for e4dbc82828d8c847d3b4d1f769ebcbaeddc16015 against 572e4d091bcee94b35bdae44ff5a55687740f7c9 are in. No significant results found. @robin-carlier

- 🟥 `build//instructions`: **+5.2G** (**+0.00%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.CategoryTheory.Functor.KanExtension.Basic//instructions`: **-2.0G** (**-3.64%**)

**Small changes (2🟥)**

- 🟥 `build/module/Mathlib.CategoryTheory.Monoidal.Multifunctor//instructions`: **+2.7G** (**+5.18%**) (reduced significance based on *//lines)
- 🟥 `build/module/Mathlib.CategoryTheory.Whiskering//instructions`: **+773.0M** (**+1.87%**)

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean [hunk 1]
```diff
@@ -67,16 +67,22 @@ lemma coyonedaOpColimitIsoLimitCoyoneda_inv_comp_π (i : I) :
...
-  erw [limitObjIsoLimitCompEvaluation_hom_π]
-  change ((coyonedaOpColimitIsoLimitCoyoneda F).hom ≫ _).app A = _
-  rw [coyonedaOpColimitIsoLimitCoyoneda_hom_comp_π, Functor.flip_map_app]
+  simp only [Functor.comp_obj, Functor.op_obj, yoneda_obj_obj, colimitHomIsoLimitYoneda,
+    Iso.trans_hom, Iso.app_hom, Category.assoc, HasLimit.isoOfNatIso_hom_π,
+    evaluation_obj_obj, Functor.flip_obj_obj, Functor.isoWhiskerLeft_hom, NatTrans.comp_app,
+    Functor.associator_hom_app, Functor.whiskerLeft_app, compEvaluation_hom_app,
+    Category.comp_id, limitObjIsoLimitCompEvaluation_hom_π, yoneda_obj_map, Quiver.Hom.unop_op]
+  rw [← NatTrans.comp_app, coyonedaOpColimitIsoLimitCoyoneda_hom_comp_π]
+  simp only [Functor.flip_map_app, yoneda_obj_map, Quiver.Hom.unop_op]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/IndYoneda.lean:85]:
```suggestion
  dsimp [colimitHomIsoLimitYoneda]
  simp only [Category.assoc, HasLimit.isoOfNatIso_hom_π, Iso.trans_hom, NatTrans.comp_app]
  simp [← NatTrans.comp_app]
```

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean [hunk 2]
```diff
@@ -115,17 +121,23 @@ lemma coyonedaOpColimitIsoLimitCoyoneda'_inv_comp_π (i : I) :
...
-  erw [limitObjIsoLimitCompEvaluation_hom_π]
-  change ((coyonedaOpColimitIsoLimitCoyoneda' F).hom ≫ _).app A = _
-  rw [coyonedaOpColimitIsoLimitCoyoneda'_hom_comp_π, Functor.flip_map_app]
+  simp only [Functor.comp_obj, yoneda_obj_obj, colimitHomIsoLimitYoneda',
+    Iso.trans_hom, Iso.app_hom, Category.assoc, HasLimit.isoOfNatIso_hom_π,
+    evaluation_obj_obj, Functor.flip_obj_obj, Functor.isoWhiskerLeft_hom, NatTrans.comp_app,
+    Functor.associator_hom_app, Functor.whiskerLeft_app, compEvaluation_hom_app,
+    Category.comp_id, limitObjIsoLimitCompEvaluation_hom_π, yoneda_obj_map, Quiver.Hom.unop_op]
+  rw [← NatTrans.comp_app, coyonedaOpColimitIsoLimitCoyoneda'_hom_comp_π]
+  simp only [Functor.flip_map_app, yoneda_obj_map, Quiver.Hom.unop_op]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/IndYoneda.lean:140]:
```suggestion
  dsimp [colimitHomIsoLimitYoneda']
  simp only [Category.assoc, HasLimit.isoOfNatIso_hom_π, Iso.trans_hom, NatTrans.comp_app]
  simp [← NatTrans.comp_app]
```

File: Mathlib/CategoryTheory/Shift/Induced.lean [hunk 3]
```diff
@@ -137,7 +137,8 @@ noncomputable def induced : HasShift D A :=
         suffices (Induced.add F s i (m₁ + m₂) m₃).hom ≫
             whiskerRight (Induced.add F s i m₁ m₂).hom (s m₃) =
             eqToHom (by rw [add_assoc]) ≫ (Induced.add F s i m₁ (m₂ + m₃)).hom ≫
-              whiskerLeft (s m₁) (Induced.add F s i m₂ m₃).hom by
+              whiskerLeft (s m₁) (Induced.add F s i m₂ m₃).hom ≫
+                (Functor.associator (s m₁) (s m₂) (s m₃)).inv by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Shift/Induced.lean:141]:
```suggestion
                (Functor.associator ..).inv by
```

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Connected.lean [hunk 4]
```diff
@@ -59,6 +59,7 @@ def raiseCone [IsConnected J] {B : D} {F : J ⥤ CostructuredArrow K B}
   π.app j := CostructuredArrow.homMk (c.π.app j) <| by
     let z : (Functor.const J).obj (K.obj c.pt) ⟶ _ :=
       (CategoryTheory.Functor.constComp J c.pt K).inv ≫ Functor.whiskerRight c.π K ≫
+        (Functor.associator F (CostructuredArrow.proj K B) K).hom ≫
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Connected.lean:62]: (untested) I think in practice we want to make the associators as implicit as possible (I’ve wished more than once that we could have a 1-symbol syntax for `Functor.associator ..`)
```suggestion
        (Functor.associator ..).hom ≫
```

File: Mathlib/CategoryTheory/Limits/FunctorCategory/Basic.lean [hunk 5]
```diff
@@ -269,7 +269,9 @@ def limitCompWhiskeringLeftIsoCompLimit (F : J ⥤ K ⥤ C) (G : D ⥤ K) [HasLi
     limit (F ⋙ (whiskeringLeft _ _ _).obj G) ≅ G ⋙ limit F :=
   NatIso.ofComponents (fun j =>
     limitObjIsoLimitCompEvaluation (F ⋙ (whiskeringLeft _ _ _).obj G) j ≪≫
-      HasLimit.isoOfNatIso (isoWhiskerLeft F (whiskeringLeftCompEvaluation G j)) ≪≫
+      HasLimit.isoOfNatIso
+        (Functor.associator F ((whiskeringLeft D K C).obj G) ((evaluation D C).obj j) ≪≫
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/FunctorCategory/Basic.lean:273]:
```suggestion
        (Functor.associator .. ≪≫
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean [hunk 6]
```diff
@@ -664,8 +665,11 @@ def prodComparisonNatTrans (A : C) :
 
 set_option backward.defeqAttrib.useBackward true in
 theorem prodComparisonNatTrans_comp :
-    prodComparisonNatTrans (F ⋙ G) A = Functor.whiskerRight (prodComparisonNatTrans F A) G ≫
-      Functor.whiskerLeft F (prodComparisonNatTrans G (F.obj A)) := by
+    prodComparisonNatTrans (F ⋙ G) A =
+      (Functor.associator _ F G).inv ≫ Functor.whiskerRight (prodComparisonNatTrans F A) G ≫
+        (Functor.associator F _ G).hom ≫
+          Functor.whiskerLeft F (prodComparisonNatTrans G (F.obj A)) ≫
+            (Functor.associator F G _).inv := by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean:672]: (untested): if we leave one implicit, might as well leave all of them.
```suggestion
      (Functor.associator ..).inv ≫ Functor.whiskerRight (prodComparisonNatTrans F A) G ≫
        (Functor.associator ..).hom ≫
          Functor.whiskerLeft F (prodComparisonNatTrans G (F.obj A)) ≫
            (Functor.associator ..).inv := by
```

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Limits/IndYoneda.lean]: :+1: 03d5b1ff492d786b85748879af3170e0a8ba5dd3

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Limits/IndYoneda.lean]: :+1: 03d5b1ff492d786b85748879af3170e0a8ba5dd3

File: Mathlib/CategoryTheory/Shift/Induced.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Shift/Induced.lean]: :+1: 03d5b1ff492d786b85748879af3170e0a8ba5dd3

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Connected.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Limits/Constructions/Over/Connected.lean]: :+1: 03d5b1ff492d786b85748879af3170e0a8ba5dd3

File: Mathlib/CategoryTheory/Limits/FunctorCategory/Basic.lean (hunk 5 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Limits/FunctorCategory/Basic.lean]: :+1: 03d5b1ff492d786b85748879af3170e0a8ba5dd3

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean (hunk 6 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean]: :+1: 03d5b1ff492d786b85748879af3170e0a8ba5dd3
